US08420816B2
3-Amino-3-cyclopropylpropan-1-ol (30 mg, 0.26 mmol) was added to a solution of 1-tert-butyl 4-methyl 3-formyl-1H-pyrrolo[2,3-b]pyridine-1,4-dicarboxylate (39.6 mg, 0.13 mmol) in MeOH (3 mL) with AcOH (2 drops). After stirring for 90 min at rt, sodium cyanoborohydride (33 mg, 0.53 mmol) was added, and the reaction was stirred for an additional 3 h. The mixture was quenched with sat. NaHCO3 solution and extracted with ethyl acetate. The organics were dried over MgSO4 and concentrated in vacuo to give 50 mg of crude 1-tert-butyl 4-methyl 3-((1-cyclopropyl-3-hydroxypropylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,4-dicarboxylate as a yellow oil which was used without further purification. [M+H] found 404.

reactant | 3-Amino-3-cyclopropylpropan-1-ol | 0.26 mmol, 30 mg | NC(CCO)C1CC1 | C6H13NO
reactant | 1-tert-butyl 4-methyl 3-formyl-1H-pyrrolo[2,3-b]pyridine-1,4-dicarboxylate | 0.13 mmol, 39.6 mg | C(=O)C1=CN(C=2N=CC=C(C21)C(=O)OC)C(=O)OC(C)(C)C | C15H16N2O5
reactant | sodium cyanoborohydride | 0.53 mmol, 33 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
catalyst | AcOH | 2 drops | CC(=O)O | C2H4O2
product | 1-tert-butyl 4-methyl 3-((1-cyclopropyl-3-hydroxypropylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,4-dicarboxylate | 50 mg | C1(CC1)C(CCO)NCC1=CN(C=2N=CC=C(C21)C(=O)OC)C(=O)OC(C)(C)C | C21H29N3O5
